US05712300
Preparation of tert-Butyl α-(2-Chloroethyl)-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate
A cold (-78° C.) solution of tert-butyl 2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate (prepared similarly to that described in EXAMPLE 1, step 3; 5.52 g, 16.1 mmol) in dry THF (100 mL) is treated with the dropwise addition of LDA (9.66 mL, 19.3 mmol, 2.0N). The solution is stirred for 30 min, and then treated with the dropwise addition of 1-bromo-2-chloroethane (1.61 mL, 19.3 mmol). The solution is maintained at -78° C. for 5 hours and then allowed to slowly warm to room temperature under N2 overnight. The solution is quenched with saturated NH4Cl (10 mL) and diluted with H2O (25 mL). The product is extracted with EtOAc (3×100 mL), dried over anhydrous MgSO4, filtered, and concentrated to give 6.6 g of a brown oil. The oil is purified by silica gel chromatography (275 g SG; 10% EtOAc/hexane) to provide 5.07 g (78%) of the title compound as a clear, yellow oil:

reactant | tert-butyl 2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate | O=C1N(CCC1(CC(=O)OC(C)(C)C)C(=C)C)CCC1=CC=CC=C1 | C21H29NO3
reactant | LDA | 19.3 mmol, 2.0N, 9.66 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-bromo-2-chloroethane | 19.3 mmol, 1.61 mL | BrCCCl | C2H4BrCl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-Butyl α-(2-Chloroethyl)-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate | 6.6 g | ClCCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)C(=C)C | C23H32ClNO3
